US05563160
N-Cyano-N'-(4-phenoxybutyl)-N"-3- pyridylguanidine
N-(4-Phenoxybutyl)-N'-3-pyridylthiourea (1.41 g) was dissolved in acetonitrile (10 ml), and cyanamide (400 mg), N,N'dicyclohexylcarbodiimide (1.95 g) and triethylamine (0.08 ml) were added. The mixture was stirred for 3 days at room temperature, when it was filtered, washed with acetonitrile, and ether to yield a solid mixture of the crude product and N,N'-dicyclohexylthiourea. The pure compound was obtained by extracting the mixture with 0.5N hydrochloric acid (16 ml), filtering and re-precipitation by addition of 9N sodium hydroxide to the filtrate.

reactant | N-(4-Phenoxybutyl)-N'-3-pyridylthiourea | 1.41 g | O(C1=CC=CC=C1)CCCCNC(=S)NC=1C=NC=CC1 | C16H19N3OS
reactant | cyanamide | 400 mg | N#CN | CH2N2
reactant | N,N'dicyclohexylcarbodiimide | 1.95 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N'-dicyclohexylthiourea | C1(CCCCC1)NC(=S)NC1CCCCC1 | C13H24N2S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.08 ml | C(C)N(CC)CC | C6H15N
product | N-Cyano-N'-(4-phenoxybutyl)-N"-3- pyridylguanidine | C(#N)NC(=NC=1C=NC=CC1)NCCCCOC1=CC=CC=C1 | C17H19N5O
